US08202863B2
A mixture of 2-(3-pyridyl)-pyrimidine-5-carboxylic acid hydrochloride (237 mg 1 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N,N-tetramethyluronium hexafluorophosphate (380 mg, 1 mmol) in dry DMF (15 mL) is treated with diisopropylethylamine (0.36 mL) and stirred at room temperature for 30 min. 3-Methylsulfamoylbenzylamine hydrochloride (355 mg, 1.5 mmol) is added and the mixture is stirred at room temperature for 24 hours. The solvent is removed and the residue is partitioned between EtOAc and saturated aqueous NaHCO3. The organic phase is separated, washed with water and brine, dried (MgSO4), filtered and concentrated in vacuo. The residue is triturated with EtOAc. The resulting solid is filtered, washed with ether to afford 2-(3-pyridyl)-pyrimidine-5-carboxylic-acid-3-methylsulfamoyl-benzylamide (185 mg, 48%). MS: 384 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 2.43 (d, 3H), 4.65 (d, 2H), 7.45-7.55 (q, 1H), 7.60-7.75 (m, 3H), 7.80 (s, 1H), 8.72-8.80 (m, 2H), 9.35 (s, 2H), 9.55 (m, 2H).

reactant | 2-(3-pyridyl)-pyrimidine-5-carboxylic acid hydrochloride | 1 mmol, 237 mg | Cl.N1=CC(=CC=C1)C1=NC=C(C=N1)C(=O)O
reactant | diisopropylethylamine | 0.36 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-Methylsulfamoylbenzylamine hydrochloride | 1.5 mmol, 355 mg | Cl.CNS(=O)(=O)C=1C=C(CN)C=CC1
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-(3-pyridyl)-pyrimidine-5-carboxylic-acid-3-methylsulfamoyl-benzylamide | 185 mg, 48% | CNS(=O)(=O)C=1C=C(CNC(=O)C=2C=NC(=NC2)C=2C=NC=CC2)C=CC1 | C18H17N5O3S
